data/oMe_Silver.jsonl
{"reaction_id": "NR-076_1-C(C)(C)C_2-C","name": "Ganem Oxidation","level": "medium","reactants_smiles": ["C(Br)(C(C)(C)C)(C)","[O-][N+](CC)(CC)CC"],"products_smiles": ["C(=O)(C(C)(C)C)(C)"],"conditions": "","mechnism_text_description": "The Ganem oxidation is the oxidation of benzylic or allylic halides to aldehydes or ketones. The mechanism begins with the nucleophilic oxygen of the trialkylamine N-oxide attacking the electrophilic carbon of the halide in an SN2 reaction, displacing the halide and forming an alkoxyammonium salt intermediate. In the second step, a base (like triethylamine, which can be a byproduct) abstracts an alpha-proton, leading to an E2 elimination. This forms a carbon-oxygen double bond and expels triethylamine as a leaving group, resulting in the final carbonyl compound.","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O[N+](CC)(CC)CC)(C(C)(C)C)(C)","step_weight": 0,"rationale": "The oxygen of the N-oxide is strongly nucleophilic due to its negative polarization, enabling backside SN2 attack on the electrophilic halide carbon, which is further activated by resonance or inductive effects from C(C)(C)C/C, displacing the halide."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C(C)(C)C)(C)","step_weight": 0,"rationale": "A base abstracts the acidic α-proton adjacent to the positively charged oxygen, facilitating E2 elimination; the driving force is formation of the stable C=O bond and expulsion of neutral trialkylamine as a good leaving group."}],"description": "The Ganem oxidation converts benzylic or allylic halides into carbonyl compounds via nucleophilic substitution by an N-oxide, followed by base-induced elimination. The reaction leverages the electrophilicity of the halide carbon and the good leaving group ability of the trialkylamine, under mild, non-metal conditions."}
{"reaction_id": "NR-133_1-c1ccc(-c2ccccc2)cc1_2-c1ccc(F)cc1","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(c1ccc(F)cc1)C(=O)(c1ccc(-c2ccccc2)cc1)"],"products_smiles": ["C(=O)(c1ccc(F)cc1)C(O)(c1ccc(-c2ccccc2)cc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(F)cc1)=C([O-])(c1ccc(-c2ccccc2)cc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(F)cc1)=C(O)(c1ccc(-c2ccccc2)cc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(c1ccc(F)cc1)=C(O)(c1ccc(-c2ccccc2)cc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(F)cc1)C(O)(c1ccc(-c2ccccc2)cc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
